US06350749B1
A solution of 5-(3-methyl-2-thienyl)-1,3-cyclohexanedione (3.0 g) and ammonium acetate (3.3 g) in ethanol (60 ml) was refluxed for 13 hours. Under reduced pressure, the solvent was evaporated, and to the residue were added ethyl acetate and water to precipitate crystals, which were filtered, washed with water and dried to give pale yellow crystals of 1-amino-5-(3-methyl-2-thienyl)cyclohexen-3-one (2.7 g).

reactant | 5-(3-methyl-2-thienyl)-1,3-cyclohexanedione | 3.0 g | CC1=C(SC=C1)C1CC(CC(C1)=O)=O | C11H12O2S
reactant | ammonium acetate | 3.3 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-amino-5-(3-methyl-2-thienyl)cyclohexen-3-one | 2.7 g | NC1=CC(CC(C1)C=1SC=CC1C)=O | C11H13NOS
